US08048897B2
(4) Synthesis of (4-Cyclopropylphenyl)-(3-hydroxy-pyridin-4-yl)methanone
p-Toluenesulfonic acid monohydrate (3.03 g, 15.9 mmol) was added to a solution of (4-cyclopropylphenyl)-[3-(2-trimethylsilylethoxymethoxy)pyridin-4-yl]methanone (1.96 g, 5.30 mmol) in THF (49 mL) and the mixture solution was stirred at 65° C. for one hour. The reaction mixture was cooled to room temperature and a saturated sodium hydrogencarbonate aqueous solution was added thereto and the mixture was extracted with ether, and the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel flash column chromatography [developing solution=n-hexane:ethyl acetate (2:3)] to obtain the title product (1.10 g, 87%).

reactant | p-Toluenesulfonic acid monohydrate | 15.9 mmol, 3.03 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (4-cyclopropylphenyl)-[3-(2-trimethylsilylethoxymethoxy)pyridin-4-yl]methanone | 5.30 mmol, 1.96 g | C1(CC1)C1=CC=C(C=C1)C(=O)C1=C(C=NC=C1)OCOCC[Si](C)(C)C | C21H27NO3Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 49 mL | C1CCOC1 | C4H8O
product | (4-Cyclopropylphenyl)-(3-hydroxy-pyridin-4-yl)methanone | 1.10 g, 87% | C1(CC1)C1=CC=C(C=C1)C(=O)C1=C(C=NC=C1)O | C15H13NO2
